US07244864B2
5-amino-N,N′-bis[2-hydroxy-1-(hydroxymethyl)ethyl]-1,3-benzenedicarboxamide
2-Amino-1,3-dihydroxypropane (27.4 g, 300 mmol) and 1.5M solution of sodium methylate in methanol (14.3 mL, 21.5 mmol) are added to a suspension of 5-amino-1,3-benzenedicarboxylic acid dimethyl ester (30.0 g, 143 mmol) in methanol (0.2 L). The reaction mixture is heated to the reflux temperature to get a solution. After 2.5 hours of reflux and 4 hours at room temperature the reaction mixture is filtered and the solid on filter is washed with methanol (40 mL) and dried yielding the product of the title (43.5 g, 133 mmol, yield: 93%).

reactant | 2-Amino-1,3-dihydroxypropane | 300 mmol, 27.4 g | NC(CO)CO | C3H9NO2
reactant | sodium methylate | C[O-].[Na+]
reactant | 5-amino-1,3-benzenedicarboxylic acid dimethyl ester | 143 mmol, 30.0 g | COC(=O)C1=CC(=CC(=C1)N)C(=O)OC | C10H11NO4
solvent | methanol | 0.2 L | CO | CH4O
solvent | methanol | 21.5 mmol, 14.3 mL | CO | CH4O
product | 5-amino-N,N′-bis[2-hydroxy-1-(hydroxymethyl)ethyl]-1,3-benzenedicarboxamide | yield: 93% | NC=1C=C(C=C(C1)C(=O)NC(CO)CO)C(=O)NC(CO)CO | C14H21N3O6
